US04332829
Preparation of Methylthiomethyl Citronellate
This product was prepared according to the procedure described in Example 1, by reacting citronellic acid with chloromethyl methyl sulfide in the presence of one equivalent of triethylamine; b.p. 110° C./2 mm Hg, nD20 1,4760.

reactant | citronellic acid | C(CC(C)CCC=C(C)C)(=O)O | C10H18O2
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | Methylthiomethyl Citronellate | C(CC(C)CCC=C(C)C)(=O)OCSC | C12H22O2S
